US09193669B2
MnO2 oxidation of tert-butyl 3-hydroxy-3-(3-(5-hydroxypentylamino)phenyl)propylcarbamate following the method used in Example 12 gives tert-butyl 3-(3-(5-hydroxypentylamino)phenyl)-3-oxopropylcarbamate.

reactant | tert-butyl 3-hydroxy-3-(3-(5-hydroxypentylamino)phenyl)propylcarbamate | OC(CCNC(OC(C)(C)C)=O)C1=CC(=CC=C1)NCCCCCO | C19H32N2O4
catalyst | MnO2 | O=[Mn]=O
product | tert-butyl 3-(3-(5-hydroxypentylamino)phenyl)-3-oxopropylcarbamate | OCCCCCNC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=O | C19H30N2O4
